US06610711B2
Ethyl 2-(4,4-dimethylcyclohexyl)acetate
A solution of ethyl 2-(4,4-dimethyl-2-cyclohexene-1-ylidene)acetate (Preparation 13, 4.0 g, 21 mmol) in methanol (40 ml) was treated with 5% palladium on carbon, and the suspension was placed under an atmosphere of hydrogen (60 p.s.i.) at room temperature for 48 h. The mixture was filtered through a short pad of silica (40 g) and the filtrate was concentrated in vacuo to afford the title compound as a colourless oil (3.7 g, 91%).

reactant | ethyl 2-(4,4-dimethyl-2-cyclohexene-1-ylidene)acetate | 21 mmol, 4.0 g | CC1(C=CC(CC1)=CC(=O)OCC)C | C12H18O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | Ethyl 2-(4,4-dimethylcyclohexyl)acetate | 3.7 g, 91% | CC1(CCC(CC1)CC(=O)OCC)C | C12H22O2
